US08633173B2
To a suspension of potassium carbonate (1.2 g, 8.7 mmol) in was added N-methyl-methanesulfonamide (0.70 g, 6.4 mmol) followed by o-nitrobenzylchloride (1.0 g, 5.8 mmol). The mixture was heated at 50° C. for 18 hours. The mixture was cooled to room temperature and diluted with water (50 mL) and stirred for 30 minutes. The resulting precipitate was filtered and rinsed with water. The solid was dissolved in dichloromethane (25 mL), dried over magnesium sulfate, filtered, evaporated under reduced pressure then placed under high vacuum for 2 hours. N-Methyl-N-(2-nitro-benzyl)-methanesulfonamide was isolated as an orange-brown solid (1.12 g, 78%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.07 (d, J=8.0 Hz, 1H), 7.82 (d, J=7.9 Hz, 1H), 7.70 (t, J=7.4 Hz, 1H), 7.49 (t, J=7.7 Hz, 1H), 4.73 (s, 2H), 2.96 (s, 3H), 2.88 (s, 3H). MS=245 (MH)+.

reactant | potassium carbonate | 8.7 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methyl-methanesulfonamide | 6.4 mmol, 0.70 g | CNS(=O)(=O)C | C2H7NO2S
reactant | o-nitrobenzylchloride | 5.8 mmol, 1.0 g | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
solvent | water | 50 mL | O | H2O
product | N-Methyl-N-(2-nitro-benzyl)-methanesulfonamide | CN(S(=O)(=O)C)CC1=C(C=CC=C1)[N+](=O)[O-] | C9H12N2O4S
